US05006159
1-(4-benzyloxyphenyl)but-1-en-3-one
A solution of 50 g (0.2 mol) of 4-benzyloxybenzaldehyde in 500 mL of acetone was diluted with 500 mL of water. To the cloudy emulsion which formed was added 20 mL of 1N sodium hydroxide and the mixture stirred at room temperature for 20 hours. The solids which precipitated were recovered by filtration. Recrystallization from methanol gave the above named product, as a tan flaky solid, in a yield of 51 g (87 percent of theoretical). The product melted at 102°-109° C.; 1H NMR (CDCl3) δ2.29 (s, 3H, CH3 --), 5.04 (s, 2H, --CH2 --), 6.48-7.52 (m, 11H, ArH's and --CH=CH--).

reactant | 4-benzyloxybenzaldehyde | 0.2 mol, 50 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | sodium hydroxide | 1N, 20 mL | [OH-].[Na+]
reactant | acetone | 500 mL | CC(=O)C | C3H6O
solvent | water | 500 mL | O | H2O
product | 1-(4-benzyloxyphenyl)but-1-en-3-one | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=CC(C)=O | C17H16O2
